Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G4P3 who developed sudden onset LLQ pain while walking back 
to her desk yesterday afternoon around 14:00. It was sharp at 
onset, and now 'always there'. Reports some associated 
nausea/vomiting and lightheadedness at the onset. This pain 
feels like a prior ovarian cyst rupture. Lightheadedness 
resolved, still has some nausea. 

Denies fevers, chills, hematuria, dysuria, abnormal vaginal 
discharge. LMP ___. Last ate at 7:30am ___. 

 
Past Medical History:
PObHx: G4P3
- SVD x 3
- D&C for missed abortion

PGynHx:
- Menses q month
- Denies dysmenorrhea, menorrhagia.
- Last Pap: ___  
- Denies h/o abnormal Paps
- +h/o ovarian cysts
- Denies history of STIs, fibroids, endometriosis
- Contraception: OCPs, takes most days

PMHx:
- hemophilia A carrier - no h/o bleeding problems with surgery
- obesity, BMI 38.9

PSHx:
- lsc right paratubal cystectomy, ___
- D&C
- ankle surgery
- lsc ccy at ___
 
Social History:
Social alcohol. Denies tobacco and drug use/abuse.
She lives with her fiance, mother in law, and 3 children. 
Denies safety concerns. Works in ___. 

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding
Ext: no TTP
 
Pertinent Results:
___ 12:59PM   WBC-6.0 RBC-4.24 HGB-11.3 HCT-34.0 MCV-80* 
MCH-26.7 MCHC-33.2 RDW-12.9 RDWSD-37.0
___ 12:59PM   PLT COUNT-256
___ 03:45AM   WBC-6.0 RBC-4.32 HGB-11.3 HCT-34.8 MCV-81* 
MCH-26.2 MCHC-32.5 RDW-13.0 RDWSD-37.9
___ 03:45AM   NEUTS-50.3 ___ MONOS-8.7 EOS-2.7 
BASOS-0.3 IM ___ AbsNeut-3.00# AbsLymp-2.25 AbsMono-0.52 
AbsEos-0.16 AbsBaso-0.02
___ 03:45AM   PLT COUNT-256
___ 08:09PM URINE  HOURS-RANDOM
___ 08:09PM URINE  UCG-NEGATIVE
___ 08:09PM URINE  UCG-NEGATIVE
___ 08:09PM URINE  RBC-<1 WBC-5 BACTERIA-FEW YEAST-NONE 
EPI-3
___ 08:09PM URINE  MUCOUS-RARE
___ 06:50PM   GLUCOSE-84 UREA N-12 CREAT-0.7 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-103 TOTAL CO2-23 ANION GAP-16
___ 06:50PM   estGFR-Using this
___ 06:50PM   ALT(SGPT)-16 AST(SGOT)-15 ALK PHOS-61 TOT 
BILI-0.2
___ 06:50PM   LIPASE-24
___ 06:50PM   ALBUMIN-3.9
___ 06:50PM   WBC-9.3 RBC-4.40 HGB-11.6 HCT-35.2 MCV-80* 
MCH-26.4 MCHC-33.0 RDW-12.9 RDWSD-37.2
___ 06:50PM   NEUTS-70.7 ___ MONOS-5.5 EOS-1.1 
BASOS-0.2 IM ___ AbsNeut-6.61* AbsLymp-2.07 AbsMono-0.51 
AbsEos-0.10 AbsBaso-0.02
___ 06:50PM   PLT COUNT-284
 
Brief Hospital Course:
On ___ Ms. ___ was admitted to the Gynecology service from 
the Emergency Department for abdominal pain. She had a pelvic 
ultrasound which showed:
1.  Normal uterus. 
2.  Asymmetric enlargement of the right ovary compared to the 
left without 
definite evidence for ovarian torsion, though it cannot be 
entirely excluded.  
Normal arterial and venous waveforms are seen in the bilateral 
ovaries. 
3.  Moderate amount of complex pelvic free fluid of unclear 
etiology. 

She had a CT abdomen/pelvis which showed:
1. Enlarged right ovary measuring 4.8 x 4.1 cm, better assessed 
on same day 
pelvic ultrasound.  On ultrasound, the ovary has the appearance 
of an 
involuting hemorrhagic cyst with an retracting clot.  Although 
intermittent 
torsion is not entirely excluded given the increased size of the 
ovary, it is 
felt to be less likely. 
2. Small amount of free fluid within the pelvis. 

Her pain was controlled with IV dilaudid, toradol and 
acetaminophen and she was kept NPO. She underwent serial 
abdominal exams, which were stable, and her vital signs remained 
normal during her admission. Her Hct on admission was 34 and was 
stable on repeat CBC. She continued to be clinically stable 
during her admission and was transitioned to a regular diet. She 
was discharged to home in stable condition with outpatient 
follow-up scheduled. 

 
Medications on Admission:
desogestrel-ethinyl estradiol [Apri] 
 
Discharge Medications:
none
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abdominal pain

 
Discharge Condition:
stable

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

General instructions:
* Take your medications as prescribed.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___